US07705028B2
12c) 5-{6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenyl}-1H-tetrazole
To a solution of 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarbonitrile (75 mg, 0.14 mmol) in dimethylformamide (1 mL) was added ammonium chloride (8.5 mg, 0.15 mmol) and sodium azide (10 mg, 0.15 mmol). The mixture was then heated to 100° C. for 18 hours. The reaction was diluted with water (5 mL) and acidified with 2 N HCl (2 mL). A white precipitate was formed upon acidification which was removed via filtration and dried under high vacuum for four hours. The crude residue was then dissolved in methanol (5 mL) and purified via preparative high pressure liquid chromatography (C18 Luna column eluted with a 10-100% gradient of acetonitrile in water with 0.1% formic acid modifier) to give the title compound as a white solid (62 mg, 78%) 1H NMR (CDCl3): δ 8.54 (d, J=9 Hz, 1H), 7.91-8.02 (m, 2H), 7.75 (d, J=9 Hz, 1H), 7.73 (d, J=9 Hz, 1H), 7.54 (dd, J=2, 8 Hz, 1H), 7.60-7.48 (m, 3H) 7.38 (d, J=9 Hz, 2H), 7.34-7.27 (m, 1H), 6.88 (d, J=9 Hz, 2H), 4.78 (s, 2H), 3.42-3.28 (m, 1H), 1.53-1.34 (m, 6H). ESI-LCMS m/z 556 (M+H)+.

reactant | 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarbonitrile | 0.14 mmol, 75 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)C#N)C(C)C | C30H22Cl2N2O2
reactant | ammonium chloride | 0.15 mmol, 8.5 mg | [Cl-].[NH4+]
reactant | sodium azide | 0.15 mmol, 10 mg | [N-]=[N+]=[N-].[Na+]
reactant | HCl | 2 N, 2 mL | Cl | ClH
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | 5 mL | O | H2O
product | 5-{6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenyl}-1H-tetrazole | 62 mg, 78% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)C1=NN=NN1)C(C)C | C30H23Cl2N5O2
